US04010184
To a solution of 7.1 g of 2-dimethylaminoethylamine in 40 ml of tetrahydrofuran is added 7.8 g of 1-chlorocarbonyl-5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride by portions with cooling and stirring. After the mixture is reacted for one and half hours at room temperature, the reaction substance is poured into 200 ml of ice-cold water and extracted with ethyl acetate. The organic layer is washed with water and dried over anhydrous sodium sulfate and then the solvent is evaporated under reduced pressure. The residue is treated with ethanolic hydrogen chloride to give 5-o-chlorophenyl-7-ethyl-1-(2-dimethylaminoethylcarbamoyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine dihydrochloric monohydrate as yellow crystals. This product, when recrystallized from a mixture of methanol and ethyl acetate, melts at 160°-162° C with decomposition.

reactant | 2-dimethylaminoethylamine | 7.1 g | CN(CCN)C | C4H12N2
reactant | 1-chlorocarbonyl-5-o-chlorophenyl-7-ethyl-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine hydrochloride | 7.8 g | Cl.ClC(=O)N1CCN=C(C2=C1SC(=C2)CC)C2=C(C=CC=C2)Cl
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 5-o-chlorophenyl-7-ethyl-1-(2-dimethylaminoethylcarbamoyl)-2,3-dihydro-1H-thieno[2,3-e][1,4]diazepine | ClC1=C(C=CC=C1)C=1C2=C(N(CCN1)C(NCCN(C)C)=O)SC(=C2)CC | C20H25ClN4OS
